US07915297B2
To a solution of 2.0 g of 5-furan-2-yl-isoxazole-3-carboxylic acid and 6.2 mL of TEA in benzene was added 3.61 mL of DPPA at room temperature. After refluxing for 1.5 hrs, 30 mL of distilled water was added and then the resulting solution was refluxed for an additional 30 min. The reaction solution was concentrated under reduced pressure, and the concentrate was purified by column chromatography on silica gel to obtain 0.6 g of 5-furan-2-yl-isoxazol-3-ylamine (Yield: 40%).

reactant | 5-furan-2-yl-isoxazole-3-carboxylic acid | 2.0 g | O1C(=CC=C1)C1=CC(=NO1)C(=O)O | C8H5NO4
reactant | DPPA | 3.61 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | water | 30 mL | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-furan-2-yl-isoxazol-3-ylamine | 0.6 g, Yield: 40% | O1C(=CC=C1)C1=CC(=NO1)N | C7H6N2O2
